US09238640B2
Preparation of 2-(2,6-Dimethylpyridin-4-yl)-7-methoxy-5-(2-methoxyethoxy)quinazolin-4(3H)-one
To a suspension of 2-(2,6-dimethylpyridin-4-yl)-7-fluoro-5-(2-methoxyethoxy)-3H-quinazolin-4-one (0.42 g, 1.22 mmol) in DMF (10 mL) was added a solution of sodium methoxide in methanol (25 wt %, 2.8 g, 12.8 mmol) and the reaction mixture was stirred at 70° C. for 16 hours, then cooled to room temperature. Water (1 mL) was added, the mixture was neutralized to pH approximately 6 with acetic acid, diluted with water (50 mL), and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo, to give 0.30 g of crude compound. Further purification by crystallization in acetone:Et2O (1:3) gave the title compound as a white solid. Yield: 91 mg (15%). 1H NMR (400 MHz, CDCl3): δ 10.08 (br s, 1H), 7.60 (br s, 2H), 6.87 (d, J=1.95 Hz, 2H), 6.55 (d, J=1.95 Hz, 2H), 4.25 (t, J=4.88 Hz, 2H), 3.93 (s, 3H), 3.83 (d, J=4.29 Hz, 2H), 3.44 (s, 3H), 2.64 (s, 6H). MS (ES+) m/z: 356.11 (M+1)+

reactant | 2-(2,6-dimethylpyridin-4-yl)-7-fluoro-5-(2-methoxyethoxy)-3H-quinazolin-4-one | 1.22 mmol, 0.42 g | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OCCOC)F)C | C18H18FN3O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 12.8 mmol, 2.8 g | CO | CH4O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
solvent | Water | 1 mL | O | H2O
product | 2-(2,6-Dimethylpyridin-4-yl)-7-methoxy-5-(2-methoxyethoxy)quinazolin-4(3H)-one | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OCCOC)OC)C | C19H21N3O4
